2155-08-17 09:15:00 Physician Attending Progress Note
Chief Complaint: hyperkalemia, afib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with esrd, chf, h/o c.diff, presents with fluid overload after
   missing several dialysis sessions:
   24 Hour Events:
 BLOOD CULTURED - At [**2155-8-17**] 01:30 AM
   #had HD yesterday, hyper-K resolved; fluid removed
   #afib with RVR broke to NSR with lopressor IV 1 dose
   #no new sx or events
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   asa, atorvastatin, pentopr, certraline, riss, labetalol, flagyl, senna,
   sevelamer, vitamin b
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, Diarrhea,
   No(t) Constipation, mild pain
   Genitourinary: Dysuria
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-8-17**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 96 (92 - 115) bpm
   BP: 135/88(98) {132/79(94) - 141/96(107)} mmHg
   RR: 18 (18 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  50 mL
   PO:
                  50 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,960 mL
   Urine:
   NG:
   Stool:
   460 mL
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,910 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Distant),
   (Murmur: Systolic), [**1-19**] LUSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   right base), (Breath Sounds: Diminished: right base)
   Abdominal: Soft, Bowel sounds present, Tender: mild
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   13.4 g/dL
   212 K/uL
   87 mg/dL
   6.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   43 mg/dL
   99 mEq/L
   142 mEq/L
   40.5 %
   5.7 K/uL
        [image002.jpg]
                             [**2155-8-17**]  12:20 AM
                             [**2155-8-17**]  05:20 AM
   WBC
   5.7
   Hct
   40.5
   Plt
   212
   Cr
   10.2
   6.3
   Glucose
   73
   87
   Other labs: PT / PTT / INR:19.0/33.8/1.8, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:4.4 mg/dL
   Imaging: cxr: cardiomegaly; R-sided effusion (old)
   Assessment and Plan
   1. ESRD
   2. CHF, HTN
   3. Diarrhea, c.diff
   4. afib with RVR, not on a/c due to non-compliance
   5. DM
   57M with ESRD, CHF, h/o non-compliance with meds and HD, presents with
   change in mental status in the setting of Uremia, also hyperKalemia,
   and afib with RVR, with resolution of all presenting symtoms after
   dialysis session overnight.  Specifically, patient's mental status has
   almost completely returned to baseline. His hyperkalemia was corrected
   with dialysis, now K=4.0. Patient has a known history of afib with rvr
   in the setting of fluid overload; he is now back in sinus rhythm on
   home medication. He is currently being treated for c.diff, with some
   improvement in symptoms over the last week. Patient can be transferred
   to a regular floor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2155-8-17**] 12:10 AM
   22 Gauge - [**2155-8-17**] 12:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill

2155-08-18 07:04:00 Physician Resident Progress Note
Chief Complaint: Hyperkalemia
   24 Hour Events:
   Pt continued to have intermittent episodes of chest pain over
   yesterday. Pain described as substernal pressure, non-radiating, no
   diaphoresis/nausea associated. Given SL nitro with little effect.
   Repeat EKGs showed no change from previous.
   Pt continued to have small loose bowel movements. Did not c/o abdominal
   pain overnight.
 EKG - At [**2155-8-18**] 04:08 AM
 CALLED OUT
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2155-8-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 101 (96 - 101) bpm
   BP: 127/84(94) {113/79(87) - 139/94(104)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.6 kg (admission): 73.2 kg
                  Total In:
                                                                    700 mL
                                                                    200 mL
   PO:
                                                                    700 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    610 mL
   Drains:
   Balance:
                                                                 -1,410 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: awake, laying in bed, thin male, soft-spoken, NAD
   HEENT: mm slightly dry, conjunctiva pale, no erythema/exudates in
   oropharynx
   CV: RRR, no m/r/g S1 S2 presents; mild TTP of lateral chest wall
   LUNGS: mild crackles left lung base, decreased air movement right lung
   ABD: soft, NTND, bs+
   EXT: no c/c/e, pp2+, pneumoboots bilaterally
   Labs / Radiology
   271 K/uL
   13.9 g/dL
   210 mg/dL
   7.4 mg/dL
   28 mEq/L
   4.8 mEq/L
   51 mg/dL
   99 mEq/L
   138 mEq/L
   40.9 %
   6.0 K/uL
        [image002.jpg]
   CBC above [**8-18**], Lytes [**8-17**] (current set for this a.m. pending, first set
   hemolyzed)
   Blood cx x 2 pending
   C.Diff
 not analyzed by lab due to previous C.Diff in 3 days prior
                             [**2155-8-17**]  12:20 AM
                             [**2155-8-17**]  05:20 AM
                             [**2155-8-17**]  04:42 PM
                             [**2155-8-17**]  05:12 PM
                             [**2155-8-18**]  05:34 AM
   WBC
   5.7
   6.0
   Hct
   40.5
   0.0
   40.9
   Plt
   212
   271
   Cr
   10.2
   6.3
   7.4
   Glucose
   73
   87
   210
   Other labs: PT / PTT / INR:19.0/33.8/1.8, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Assessment: 57yo M with a h/o systolic (EF 20-25) and grade 4 diastolic
   heart failure, ESRD [**2-15**] DM on HD, atrial fibrillation with RVR, severe
   depression, crack cocaine use presents with hyperkalemia to 7.4 and
   atrial fibrillation with RVR to 150s in setting of missing dialysis for
   the past week, of note patient with long history of missing dialysis
   sessions
   .
   Plan:
   # Hyperkalemia
   Secondary to ESRD and missing dialysis, treated with 2 grams calcium
   gluconate, dextrose, IV regular insulin, 30g kayexalate, bicarbonate in
   the emergency room. Last K+ at 2200 was 6.3 after treatment.
   - Renal on board. Pt to get HD again this a.m.
   - Continue to hold lisinopril
   - F/u on pending a.m. lytes
   - Recheck K+ at after HD
   .
   # Atrial fibrillation
   Has history pf afib RVR, component of volume overload causing atrial
   stretch, acidosis and uremia also exacerbating, ? compliance with
   medications. Rate controlled.
   - Continue home Labetalol
   - prn IV labetalol
   - HD to remove volume, goal 1-2 liters during HD
   .
   #Chest pain
   Pt continues to have same chronic chest pain unrelieved by nitro.
   Reproducible on palpation of lateral chest wall. Slightly improved with
   Maalox.
   -          Continue Maalox PRN, PPI
   -           Will try Ibuprofen for pain
   .
   # Altered mental status: Likely multifactorial [**2-15**] recent cocaine use,
   uremia. Appears to be back to baseline.
   - Blood culture x2
   - non focal neuro exam, no indication for head imaging given with
   stimulation he is appropriate and moving all extremities
   - Continue to monitor
   .
   # Anion gap metabolic acidosis
   On admission, secondary to renal failure and mildly elevated lactic
   acid level also contributing. AG improved.
   - Pt to get HD today.
   .
   # ESRD on HD
   - HD today. [**Month (only) 60**]  resume TThSat schedule. F/u on Renal recs.
   - On home cinacalcet and sevelamer
   - Continue to avoid nephrotoxins.
   .
   # CAD
   - On Aspirin, labetalol, hold ACE
   - Pt continues to have chronic chest pain.
   .
   # C. difficile colitis
   - continue treatment with flagyl
   .
   # DM II
   - Humalog sliding scale, hold NPH given poor PO intake and history of
   hypoglycemia
   .
   # HTN: stable.
   - Continuing home Labetalol, Lisinopri held for now.
   .
   # Hypercalcemia
   [**2-15**] [**Name (NI) 2118**], PTH 414 on [**7-22**]
   - continue phos binder and cinacalcet
   .
   # Depression
   Place back on home meds (Zoloft)
   .
   # FEN: renal/cardiac heart healthy diet, low K+
   .
   # Access- PIV, right sided EJ and fistula
   .
   # PPx:  PPI, pneumoboots
   .
   # Code:  FULL
   .
   # Dispo:  Pt called out, awaiting a bed with C.Diff precautions.
   .
   # Comm:  wife [**Name (NI) 1422**] [**Name (NI) 3397**] [**Telephone/Fax (1) 3893**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-8-17**] 12:10 AM
   22 Gauge - [**2155-8-17**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2155-08-18 10:58:00 Physician Attending Progress Note
Chief Complaint: Hyperkalemia, CRF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with multiple episodes of chest discomfort yesterday; ECG
   without ischemic changes.
   Potassium improved. Hemodynamically stable. O2 sats good with low level
   of supplemental oxygen via nasal cannula.
   24 Hour Events:
 EKG - At [**2155-8-18**] 04:08 AM
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, atorvostatin, protonix, Zoloft, thiamine, vit D & C, insulin, TNG
   sublinqual, tylenol, benadryl.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-8-18**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 98 (97 - 101) bpm
   BP: 131/85(95) {113/79(87) - 139/98(106)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.9 kg (admission): 73.2 kg
                  Total In:
                                                                    700 mL
                                                                    500 mL
   PO:
                                                                    700 mL
                                                                    500 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    610 mL
   Drains:
   Balance:
                                                                 -1,410 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : On left, Dullness : Right base), (Breath
   Sounds: Crackles : Left base, No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: Right base, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   13.9 g/dL
   271 K/uL
   139 mg/dL
   8.1 mg/dL
   27 mEq/L
   5.3 mEq/L
   55 mg/dL
   98 mEq/L
   137 mEq/L
   40.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2155-8-17**]  12:20 AM
                             [**2155-8-17**]  05:20 AM
                             [**2155-8-17**]  04:42 PM
                             [**2155-8-17**]  05:12 PM
                             [**2155-8-18**]  05:34 AM
                             [**2155-8-18**]  07:20 AM
   WBC
   5.7
   6.0
   Hct
   40.5
   0.0
   40.9
   Plt
   212
   271
   Cr
   10.2
   6.3
   7.4
   8.1
   Glucose
   73
   87
   210
   139
   Other labs: PT / PTT / INR:19.0/33.8/1.8, CK / CKMB / Troponin-T:69//,
   ALT / AST:64/76, Alk Phos / T Bili:111/1.0, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: Large heart. Probable right pleural effusion; cannot
   exclude atelectasis or infiltrate at the right base.
   Assessment and Plan
   1) Hyperkalemia
   2) Chronic renal failure
   3) Pleural effusion.
   Potassium 5.3 this AM. Due for dialysis today. No significant acid-base
   abnormality.
   Chest pain reproduced with palapation to left upper chest. ECG negative
   for ischemia. Will try NSAID today for symptomatic relief.
   Pleural effusion likely related to volume overload. No clinical
   evidence for infection underlying the effusion. Follow as fluid removed
   from system with dialysis.
   ICU Care
   Nutrition: Oral feeding
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2155-8-17**] 12:10 AM
   22 Gauge - [**2155-8-17**] 12:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: full
   Disposition : transfer to floor
   Total time spent:  30

2155-08-19 06:09:00 Physician Resident Progress Note
Chief Complaint:
   Hyperkalemia
   24 Hour Events:
   No acute events overnight.  Patient remained afebrile. He had [**3-18**]
   episodes of watery, yellowish diarrhea overnight which is a decrease in
   frequency since admission and some c/o [**3-24**] epigastric pain which was
   mostly relieved with Maalox and Tylenol per R.N.
   Patient is called out this a.m.
 CALLED OUT
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-8-19**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 96 (90 - 100) bpm
   BP: 132/98(106) {124/79(95) - 144/98(107)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.9 kg (admission): 73.2 kg
                  Total In:
                                                                    710 mL
                                                                    240 mL
   PO:
                                                                    710 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                   -840 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination:
   Gen: alert and oriented x3, NAD, speech somewhat mumbled
   HEENT: mmm,  conjunctiva pale bilaterally, OP clear, PERRL
   CVS: RRR, no m/r/g, S1/S2  appeciated, no carotid bruits noted
   LUNGS: mild bibasilar crackles noted at  bases (R >L)
   ABD: soft, NT and ND, normoactive BS
   EXT: 2+ pedal pulses, no edema, pneumoboots bilaterally
   Labs / Radiology
   271 K/uL
   13.9 g/dL
   139 mg/dL
   8.1 mg/dL
   27 mEq/L
   5.3 mEq/L
   55 mg/dL
   98 mEq/L
   137 mEq/L
   40.9 %
   6.0 K/uL
        [image002.jpg]
   [**8-19**]: Na 139, K 4, Cl 98, Bicarb 26, BUN 37, Cr 7, Glu 172
          WBC 4.7, Hgb 14.2, Hct 44.3, Plts 246
                             [**2155-8-17**]  12:20 AM
                             [**2155-8-17**]  05:20 AM
                             [**2155-8-17**]  04:42 PM
                             [**2155-8-17**]  05:12 PM
                             [**2155-8-18**]  05:34 AM
                             [**2155-8-18**]  07:20 AM
   WBC
   5.7
   6.0
   Hct
   40.5
   0.0
   40.9
   Plt
   212
   271
   Cr
   10.2
   6.3
   7.4
   8.1
   TropT
   0.38
   Glucose
   73
   87
   210
   139
   Other labs: PT / PTT / INR:19.0/33.8/1.8, CK / CKMB /
   Troponin-T:69/7/0.38, ALT / AST:64/76, Alk Phos / T Bili:111/1.0,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan:
   Assessment: 57yo M with a h/o systolic (EF 20-25) and grade 4 diastolic
   heart failure, ESRD [**2-15**] DM on HD, atrial fibrillation with RVR, severe
   depression, crack cocaine use presents with hyperkalemia to 7.4 and
   atrial fibrillation with RVR to 150s in setting of missing dialysis for
   the past week, of note patient with long history of missing dialysis
   sessions
   .
   Plan:
   # Hyperkalemia
   Secondary to ESRD and missing dialysis, treated with 2 grams calcium
   gluconate, dextrose, IV regular insulin, 30g kayexalate, bicarbonate in
   the emergency room. Last K+ at 2200 was 6.3 after treatment.
   - Renal on board. Pt to continue to get HD again today, back on
   Tues/Thurs/ Sat schedule
   - Will place patient back on lisinopril prior to d/c
   - F/u on daily  a.m. lytes
   -.
   # Atrial fibrillation
   Has history pf afib RVR, component of volume overload causing atrial
   stretch, acidosis and uremia also exacerbating, ? compliance with
   medications. Rate controlled and patient NSR now.
   - Continue home Labetalol for now
   - will con
t ongoing HD to remove volume, goal 1-2 liters during HD
   .
   #Chest pain
   Pt continues to have same chronic chest pain unrelieved by nitro.
   Reproducible on palpation of lateral chest wall. Slightly improved with
   Maalox.
   -          Continue Maalox PRN, PPI
   -           Will con
t  Ibuprofen for pain
   .
   # Altered mental status
has now resolved , initially likely a
   multifactorial etiology [**2-15**] recent cocaine use, uremia. Appears to be
   back to baseline now.
   - Blood culture  final pending, negative to date
   - non focal neuro exam, no indication for head imaging given with
   stimulation he is appropriate and moving all extremities
   - Continue to monitor
   .
   # Anion gap metabolic acidosis
   On admission, secondary to renal failure and mildly elevated lactic
   acid level also contributing. AG improved.
   - Pt to con
t HD to avoid rebound acidosis issues .
   .
   # ESRD on HD
   - HD today. [**Month (only) 60**]  resume TThSat schedule. F/u on Renal recs.
   - On home cinacalcet and sevelamer
   - Continue to avoid nephrotoxins.
   .
   # CAD
   - On Aspirin, labetalol Pt continues to have chronic chest pain but
   pain is reproducible on PE and seems relieved with Maalox and on
   further questioning is closer to epigastric area so likely GI origin
   given no EKG changes to suggest cardiac etiology .
   .
   # C. difficile colitis
   - continue treatment with flagyl on d/c, has another week of therapy
   remaining
   .
   # DM II
   - Humalog sliding scale, will restart NPH 15units am / 10 units pm dose
   prior to d/c home
   .
   # HTN: stable.
   - Continuing home Labetalol, Lisinopri held for now  but will restart
   prior to d/c home .
   .
   # Hypercalcemia
   [**2-15**] [**Name (NI) 2118**], PTH 414 on [**7-22**]
   - continue phos binder and cinacalcet
   .
   # Depression
   Placed back on home meds (Zoloft)
   .
   # FEN: renal/cardiac heart healthy diet, low K+
   .
   # Access- PIV,  fistula
   .
   # PPx:  PPI, pneumoboots
   .
   # Code:  FULL
   .
   # Dispo;  Patient will be discharged to home from ICU today, SW saw
   patient today and discussed substance abuse issues and the need for
   patient compliance with medications and dialysis.
   .
   # Comm:  wife [**Name (NI) 1422**] [**Name (NI) 3397**] [**Telephone/Fax (1) 3893**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-8-17**] 12:10 AM
   22 Gauge - [**2155-8-17**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2155-08-19 13:05:00 Physician Attending Progress Note
Chief Complaint: Hyperkalemia, afib, CRF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient hemodynamically stable overnight. No arrythmias. O2 sats good
   off of supplemental oxygen.
   Diarrhea remains a problem for him.
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, atorvostastin, PPI, zoloft, insulin, labetalol, flagyl, thiamine,
   vit B and C, tylenol, TNG prn, benadryl prn.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-8-19**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 97 (90 - 100) bpm
   BP: 135/95(104) {124/79(96) - 144/100(107)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 73.2 kg
                  Total In:
                                                                    710 mL
                                                                    600 mL
   PO:
                                                                    710 mL
                                                                    600 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    250 mL
   Urine:
   NG:
   Stool:
                                                                     50 mL
                                                                    250 mL
   Drains:
   Balance:
                                                                   -840 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Few rales that clear with deep
   breathing, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   14.2 g/dL
   246 K/uL
   172 mg/dL
   7.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   37 mg/dL
   98 mEq/L
   139 mEq/L
   44.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2155-8-17**]  12:20 AM
                             [**2155-8-17**]  05:20 AM
                             [**2155-8-17**]  04:42 PM
                             [**2155-8-17**]  05:12 PM
                             [**2155-8-18**]  05:34 AM
                             [**2155-8-18**]  07:20 AM
                             [**2155-8-19**]  10:15 AM
   WBC
   5.7
   6.0
   4.7
   Hct
   40.5
   0.0
   40.9
   44.3
   Plt
   [**Telephone/Fax (3) 3940**]
   Cr
   10.2
   6.3
   7.4
   8.1
   7.0
   TropT
   0.38
   Glucose
   73
   87
   [**Telephone/Fax (3) 3941**]
   Other labs: PT / PTT / INR:19.0/33.8/1.8, CK / CKMB /
   Troponin-T:69/7/0.38, ALT / AST:64/76, Alk Phos / T Bili:111/1.0,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   1) Hyperkalemia
   2) Chronic renal failure
   No futher hyperkalemia on dialsys. Other electrolytes in good range. No
   significant metabolic acidosis. Good oxygenation off supplemental O2.
   Intermittent chest discomfort that responds to maalox.
   Getting flagyl for CDiff.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-8-17**] 12:10 AM
   22 Gauge - [**2155-8-17**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes